US07932251B2
A solution of 8-methyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione (40 mg) in DMF (0.6 mL) was added to a solution of 2-(4-(4-cyano-1-methyl-1H-imidazo[4,5-e]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)ethyl methanesulfonate (50 mg) in DMF (0.4 mL), K2CO3 (41 mg) and tetrabutyl ammonium iodide (TBAI, 26 mg). The mixture was stirred at 90° C. for 14 hours. The crude mixture was directly purified by preparative HPLC (HPLC:column XBridge MS C18 30×100 mm, 5 μm, Eluent:A:NH4HCO3, 10 mmol, pH=9.5/B:Acetonitrile, Focused gradient/8 minutes/50 mL/min) to afford 1-methyl-6-{4-[2-(8-methyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]dec-3-yl)-ethoxy]-3-(trifluoromethyl)-phenyl}-1H-imidazo[4,5-c]pyridine-4-carbonitrile (20 mg).

reactant | 8-methyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione | 40 mg | CN1CCC2(C(NC(N2)=O)=O)CC1 | C8H13N3O2
reactant | 2-(4-(4-cyano-1-methyl-1H-imidazo[4,5-e]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)ethyl methanesulfonate | 50 mg | CS(=O)(=O)OCCOC1=C(C=C(C=C1)C1=CN(C=2C(=C1)N(CN2)C)C#N)C(F)(F)F | C18H17F3N4O4S
reactant | K2CO3 | 41 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutyl ammonium iodide | 26 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-methyl-6-{4-[2-(8-methyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]dec-3-yl)-ethoxy]-3-(trifluoromethyl)-phenyl}-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 20 mg | CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCCN2C(NC1(C2=O)CCN(CC1)C)=O)C(F)(F)F)C#N | C25H24F3N7O3
